US07429581B2
(iii) 5-(tert-Butyl-diphenyl-silanyloxymethyl)-1-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-1H-pyrazole -3-carboxylic acid ethyl ester
To a solution of 5 g 5-(tert-Butyl-diphenyl-silanyloxymethyl)-2H-pyrazole-3-carboxylic acid ethyl ester in 10 ml DMF 4 g Cs2CO3 and 3 g 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added and the mixture was stirred for 3 h. Then 10 ml of water were added and the mixture was extracted with ethyl acetate (2×50 ml). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. Inspection of the TLC and HPLC/MS indicated that a 1:1 mixture of the desired product together with the regioisomeric 5-(tert-Butyl-diphenyl-silanyloxymethyl)-2-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-2H-pyrazole-3-carboxylic acid ethyl ester was present. Purification of this mixture on silica gel eluting with a gradient on n-heptane/ethylacetate yielded the desired product as the faster eluting less polar isomer.

reactant | 5-(tert-Butyl-diphenyl-silanyloxymethyl)-2H-pyrazole-3-carboxylic acid ethyl ester | 5 g | C(C)OC(=O)C=1NN=C(C1)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O3Si
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 3 g | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | water | 10 ml | O | H2O
solvent | DMF | 10 ml, 4 g | CN(C)C=O | C3H7NO
product | 5-(tert-Butyl-diphenyl-silanyloxymethyl)-1-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-1H-pyrazole -3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)CC(NC1=NC=C(C=C1)Cl)=O | C30H33ClN4O4Si
